### PR TITLE
[Merged by Bors] - feat(NumberField/MixedSpace): add polar coordinates change of variables (part 2)

### PR DESCRIPTION
**Pull request by xroblot**
This is a follow-up of #22120. We prove that if a measurable set `A` of the mixed space `ℝ^r₁ × ℂ^r₂` has enough symmetry, in the sense that 
`normAtComplexPlaces⁻¹ (normAtComplexPlaces '' A) = A` or 
`normAtAllPlaces⁻¹ (normAtAllPlaces '' A) = A`, 
then one can compute its volume via an integral over its projection `normAtComplexPlaces '' A`, or `normAtAllPlaces '' A` respectively,  on `ℝ^(r₁+r₂)`.

This PR is part of the proof of the Analytic Class Number Formula.

---

- [x] depends on: #22120 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/PolarCoord.lean [hunk 1]
```diff
@@ -0,0 +1,528 @@
...
+namespace NumberField.mixedEmbedding
+
+open NumberField NumberField.InfinitePlace NumberField.mixedEmbedding ENNReal MeasureTheory
+  MeasureTheory.Measure Real
+
+noncomputable section realMixedSpace
+
+/-- The real mixed space `ℝ^r₁ × (ℝ × ℝ)^r₂` with `(r₁, r₂)` the signature of `K`. --/
+abbrev realMixedSpace :=
+  ({w : InfinitePlace K // IsReal w} → ℝ) × ({w : InfinitePlace K // IsComplex w} → ℝ × ℝ)
```
Comment (acmepjz) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding/PolarCoord.lean:25]: I think it should be `RealMixedSpace` since it's a `Type`?

Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding/PolarCoord.lean:25]: Well, I don't know since it is [NumberField.mixedEmbedding.mixedSpace](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.html#NumberField.mixedEmbedding.mixedSpace) there. I still don't really get all the subtleties in the naming convention 😅 

Thanks for your review but please note that this PR is still WIP and I am probably going to split it into pieces to make the review easier.

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.lean [hunk 2]
```diff
@@ -1157,6 +1208,27 @@ theorem normAtAllPlaces_normAtAllPlaces (x : mixedSpace K) :
...
+  ext w
+  obtain hw | hw := isReal_or_isComplex w
+  · simp_rw [normAtAllPlaces, normAtPlace_apply_of_isReal hw, norm_norm]
+  · simp_rw [normAtAllPlaces, normAtPlace_apply_of_isComplex hw]
+
+theorem normAtComplexPlaces_normAtAllPlaces (x : mixedSpace K) :
+    normAtComplexPlaces (mixedSpaceOfRealSpace (normAtAllPlaces x)) = normAtAllPlaces x :=
+   normAtComplexPlaces_mixedSpaceOfRealSpace fun _ _ ↦ (normAtAllPlaces_nonneg _ _)
+
+theorem normAtAllPlaces_eq_of_normAtComplexPlaces_eq {x y : mixedSpace K}
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.lean:1222]: This file is getting huge... do you think it is possible to split it (in another PR)?

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.lean:1222]: That's true. I'll put that on my TODO list. Thanks!
